US09163027B2
3-{[2-(4-chlorophenoxy)ethyl]sulfanyl}-1H-1,2,4-triazol-5-amine
A mixture of 1-(2-bromoethoxy)-4-chlorobenzene (2.0 g, 8.49 mmol), 3-amino-5-mercapto-1,2,4-triazole (1.04 g, 8.92 mmol), potassium carbonate (2.34 g, 16.98 mmol), and anhydrous N,N-dimethylformamide (4 mL) was added to a 50 mL RBF with a magnetic stirring bar. The mixture was allowed to stir at ambient temperature for 3 days. Progress of the reaction was monitored by analytical HPLC with UV detection at 215 nm (Rt=6.04 min). The mixture was diluted with 40 mL of water and allowed to stir for 5 min. A precipitate was isolated by filtration, rinsed with 25 mL of water, and allowed to dry under reduced pressure. The solid material was >98% pure by analytical HPLC and afforded the title compound as a white powder (2.21 g, 96% yield). EM (calc.): 270.7; MS (ESI) m/e: 271.0 (M+H)+. 1H NMR (DMSO-d6, 400 MHz) δ ppm: 12.00 (br s, 1H), 7.32 (d, 2H), 7.00 (d, 2H), 6.04 (s, 2H), 4.19 (t, 2H), 3.30 (t, 2H).

reactant | 1-(2-bromoethoxy)-4-chlorobenzene | 8.49 mmol, 2.0 g | BrCCOC1=CC=C(C=C1)Cl | C8H8BrClO
reactant | 3-amino-5-mercapto-1,2,4-triazole | 8.92 mmol, 1.04 g | NC1=NNC(=N1)S | C2H4N4S
reactant | potassium carbonate | 16.98 mmol, 2.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | water | 40 mL | O | H2O
product | 3-{[2-(4-chlorophenoxy)ethyl]sulfanyl}-1H-1,2,4-triazol-5-amine | 2.21 g, 96% yield | ClC1=CC=C(OCCSC2=NNC(=N2)N)C=C1 | C10H11ClN4OS
